US07829566B2
4-Chloro-2-(2-naphthalen-1-yl-vinyl)-3,4-dihydro-quinazoline (0.08 mmol), C-(3-aminomethyl-cyclohexyl)-methylamine (0.24 mmol) and 2 ml ethyl alcohol are placed in an 8 ml glass vial sealed with a teflon-lined screw cap. The mixture is heated at 80° for 3 hrs. After cooling to rt, the ethyl alcohol is removed. Ethyl acetate (3 ml) and water (3 ml) are added to the vial. After agitation, the water was removed. The procedure is repeated with water and aq. NaCl (sat.). Purification with silica gel afforded (3-aminomethyl-cyclohexylmethyl)-[2-(2-naphthalen-1-yl-vinyl)-quinazolin-4-yl]-amine;

reactant | 4-Chloro-2-(2-naphthalen-1-yl-vinyl)-3,4-dihydro-quinazoline | 0.08 mmol | ClC1NC(=NC2=CC=CC=C12)C=CC1=CC=CC2=CC=CC=C12 | C20H15ClN2
reactant | C-(3-aminomethyl-cyclohexyl)-methylamine | 0.24 mmol | NCC1CC(CCC1)CN | C8H18N2
solvent | ethyl alcohol | 2 ml | C(C)O | C2H6O
product | (3-aminomethyl-cyclohexylmethyl)-[2-(2-naphthalen-1-yl-vinyl)-quinazolin-4-yl]-amine | NCC1CC(CCC1)CNC1=NC(=NC2=CC=CC=C12)C=CC1=CC=CC2=CC=CC=C12 | C28H30N4
